US07858624B2
To a solution of (R)-tert-butyl 3-((S)-4-amino-1-(6-chloro-3′-methylbiphenyl-2-yl)-1-hydroxybutyl)piperidine-1-carboxylate (800 mg, 1.69 mmol) in anhydrous CH2Cl2 (15 mL) were added 4-dimethyaminopyridine (1.24 g, 10.17 mmol) and Et3N (2.35 mL, 16.95 mmol). The mixture was cooled with an ice bath and methyl chloroformate (0.65 mL, 8.47 mmol) in CH2Cl2 (5 mL) was added. The reaction mixture was allowed to warm slowly to rt while stirring overnight. The solvent was removed in vacuo and the residue was purified by column chromatography to afford (R)-tert-butyl 3-((S)-1-(6-chloro-3′-methylbiphenyl-2-yl)-1-hydroxy-4-(methoxycarbonylamino)butyl)piperidine-1-carboxylate (700 mg, 78%). 1H NMR (400 MHz, CD3OD): 1.00-1.70 (m, 17H), 2.30-2.50 (d, 3H), 2.50-2.70 (s, 1H), 2.90-2.31 (m, 2H), 3.50-3.52 (m, 3H), 3.80-4.20 (m, 2H), 6.0-7.15 (m, 3H), 7.15-7.40 (m, 3H), 7.50-7.70 (m, 1H); MS (E/Z): 531 (M+H+)

reactant | (R)-tert-butyl 3-((S)-4-amino-1-(6-chloro-3′-methylbiphenyl-2-yl)-1-hydroxybutyl)piperidine-1-carboxylate | 1.69 mmol, 800 mg | NCCC[C@@](O)(C1=C(C(=CC=C1)Cl)C1=CC(=CC=C1)C)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C27H37ClN2O3
reactant | Et3N | 16.95 mmol, 2.35 mL | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 8.47 mmol, 0.65 mL | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethyaminopyridine | 10.17 mmol, 1.24 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((S)-1-(6-chloro-3′-methylbiphenyl-2-yl)-1-hydroxy-4-(methoxycarbonylamino)butyl)piperidine-1-carboxylate | 700 mg, 78% | ClC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@](CCCNC(=O)OC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C29H39ClN2O5
